Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
gluten / honey nut cheerios
 
Attending: ___.
 
Chief Complaint:
Gastric mass
 
Major Surgical or Invasive Procedure:
___:
1. Laparoscopic exploration of the stomach.
2. Laparoscopic intraoperative ultrasound.
3. Distal gastrectomy with looped gastrojejunostomy.
4. Placement of fiducials for possible CyberKnife therapy.
5. Peritoneal washings.

 
History of Present Illness:
The patient is a lovely ___ year old woman with a history of 
celiac disease and diverticulosis who has recently been having 
increased abdominal pain and some weight loss. Initially, an 
abdominal CT was uninformative, so an EGD was done
on ___, which revealed atrophic and inflamed appearing antral 
mucosa with a raised, soft erythematous 1.5cm area of mucosa in 
the antrum along the lesser curvature. Biopsies of this area 
showed superficial portions of gastric mucosa displaying 
intestinal metaplasia and at least intramucosal carcinoma. This
lesion was not seen on prior ___ in ___, although no 
gastric biopsies were taken due to the patient not tolerating 
the procedure. 
On ___ she underwent an EUS (Dr. ___. Findings included 
erythema and erosions in the antrum and a nodule in the gastric 
antrum, 1.7 cm X 0.5 cm in size with well-demarcated walls with 
hypoechoic and heterogeneous echotecture. The lesion appeared to 
arise from the deep mucosal layer, with intact muscularis. No 
adjacent lymph adenopathy was found. Biopsy of the antrum nodule
which was read as extensive high grade displasia, with foci 
suspicious for invasion. The patient was evaluated by Dr. ___ 
in her ___ ___ clinic for possible resection. After 
all risks, benefits and possible outcomes were discussed with 
the patient, she was scheduled for elective laparoscopic gastric 
resection on ___.

 
Past Medical History:
PMHx: ___ disease, celiac disease which is controlled 
with diet, anxiety, hypothyroidism, diverticulosis, colon 
polyps, osteoporosis, and hyperlipidemia

PSHx: appendectomy and tonsillectomy as a child, and 
arthroscopic knee surgery and cataract extraction as an adult.
 
Social History:
___
Family History:
Family history is significant for achalasia in one of her 
daughters. 

 
Physical Exam:
Prior Discharge:
VS: 98.1, 70, 122/52, 18, 97% RA
GEN: Pleasant with NAD
CV: RRR, no m/r/g
PULM: CTAB
ABD: Laparoscopic incisions open to air with dermabond and 
c/d/i. Abdomen soft, NT/ND.
EXTR: Thin, warm, no c/c/e
 
Pertinent Results:
___ 11:00AM BLOOD WBC-8.4 RBC-3.32* Hgb-10.4* Hct-30.7* 
MCV-93 MCH-31.2 MCHC-33.8 RDW-13.5 Plt ___
___ 06:52AM BLOOD Glucose-89 UreaN-10 Creat-0.5 Na-140 
K-3.9 Cl-103 HCO3-27 AnGap-14
___ 06:52AM BLOOD Calcium-9.2 Phos-4.0 Mg-1.9
 
Brief Hospital Course:
The patient with gastric mass was admitted to the Surgical 
Oncology Service for elective resection. On ___, the 
patient underwent laparoscopic exploration of the stomach, 
distal gastrectomy with looped gastrojejunostomy and peritoneal 
washing, which went well without complication (please see the 
Operative Note for details). After a brief, uneventful stay in 
the PACU, the patient arrived on the floor NPO, on IV fluids and 
antibiotics, with a foley catheter, and Morphine PCA for pain 
control.  The patient was hemodynamically stable.
Psych: Patient has a history of early ___ and anxiety. 
She was found to have visual hallucinations and agitated on POD 
1 and Geriatric Service was called in order to help managing 
patient acute post op delirium. Geriatric's recommendations were 
followed, opioids were minimized, patient was given Zyprexa and 
Ativan for agitations. Patient's mental status started to 
improve on POD 4 and gradually returned to her baseline prior 
discharge. 
Neuro: The patient received Morphine PCA immediately post op. 
She was unable to use PCA and was started on Morphine prn. 
Opioids were minimized for treatment of delirium, IV Tylenol and 
Lidocaine patch were provided for pain control. When tolerating 
PO patient was started on Tramadol for pain control with good 
effect.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirrometry were 
encouraged throughout hospitalization.
GI: Post-operatively, the patient was made NPO/NGT with IV 
fluids. NGT was removed on POD 2. Diet was advanced when 
appropriate to regular post gastrectomy diet on POD 9. Nutrition 
service followed the patient and education about diet 
modification was provided to the patient and her family. 
Patient's intake and output were closely monitored, and IV fluid 
was adjusted when necessary.  Electrolytes were routinely 
followed, and repleted when necessary.
ID: The patient's white blood count and fever curves were 
closely watched for signs of infection. Wound was evaluated 
daily and no signs or symptoms of infection were noticed.
Endocrine: No issues
Hematology: The patient's complete blood count was examined 
routinely; no transfusions were required.
Prophylaxis: The patient received subcutaneous heparin and 
venodyne boots were used during this stay; was encouraged to get 
up and ambulate as early as possible.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
post gastrectomy diet, ambulating, voiding without assistance, 
and pain was well controlled.  The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carbidopa-Levodopa (___) 1 TAB PO TID 
2. Desipramine 10 mg PO DAILY 
3. Levothyroxine Sodium 125 mcg PO DAILY 
4. Lorazepam 1 mg PO PRN anxiety 
5. Lovastatin 10 mg oral daily 
6. Ranitidine 150 mg PO BID 
7. Sertraline 50 mg PO DAILY 
8. melatonin 3 mg oral prn insomnia 

 
Discharge Medications:
1. Carbidopa-Levodopa (___) 1 TAB PO TID 
2. Desipramine 10 mg PO DAILY 
3. Levothyroxine Sodium 125 mcg PO DAILY 
4. Lorazepam 1 mg PO PRN anxiety 
5. melatonin 3 mg oral prn insomnia 
6. Sertraline 50 mg PO DAILY 
7. Acetaminophen 650 mg PO Q6H 
8. Docusate Sodium 100 mg PO BID 
9. Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine [Lidoderm] 5 % (700 mg/patch) 1 patch QAM Disp 
#*10 Patch Refills:*0
10. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*60 Tablet Refills:*5
11. Senna 8.6 mg PO BID 
12. TraMADOL (Ultram) 50 mg PO TID:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth three times a day Disp 
#*50 Tablet Refills:*0
13. Lovastatin 10 mg oral daily 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Gastric mass (pathology pending)
2. Delirium

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the surgery service at ___ for surgical 
resection of your gastric mass. Your recovery was complicated by 
post operative delirium, which resolved. You are now safe to 
return home to complete your recovery with the following 
instructions:
.
Please call Dr. ___ office at ___ if you have any 
questions or concerns..
.
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.

 
Followup Instructions:
___